US04031226
A mixture of 0.96 parts of 1-(2- ethoxybenzoyl)aziridine, 1.06 parts of 4-(4-chlorophenyl)-4-piperidinol, 5.4 parts of benzene and 0.8 parts of methanol is stirred and refluxed for 2 hours. The reaction mixture is cooled. Upon the addition of 1,1'-oxybisethane, the product is precipitated. It is filtered off, crystallized from 2-propanol, filtered off again and dried overnight in vacuo at 80° C, yielding 1.4 parts of N-{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]ethyl}-2-ethoxybenzamide; mp. 171°-173° C.

reactant | 1-(2- ethoxybenzoyl)aziridine | C(C)OC1=C(C(=O)N2CC2)C=CC=C1 | C11H13NO2
reactant | 4-(4-chlorophenyl)-4-piperidinol | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | methanol | CO | CH4O
solvent | 1,1'-oxybisethane | O(CC)CC | C4H10O
product | N-{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]ethyl}-2-ethoxybenzamide | ClC1=CC=C(C=C1)C1(CCN(CC1)CCNC(C1=C(C=CC=C1)OCC)=O)O | C22H27ClN2O3
